US07148350B2
Reaction 1: Synthesis of Piperazine Ethyl Acetate
To a reaction blend containing 100 g (3 Eq, 0.515 mol, MW=194) of piperazine, 26.3 mL (1.1 Eq, 0.189 mol, MW=101, d=0.726) of triethylamine in 200 mL of isopropanol, add to a solution previously prepared of 18.4 mL (1 Eq., 0.172 mol, MW=122.55, d=1.15) of chloroacetate of ethyl in 140 mL of isopropanol under stirring, at room temperature. Keep the reaction medium under stirring, monitoring the reaction termination by means of a chromatography of the thin layer (about 2–3 hours). Add a solution of 40.6 g (0.344 mol) of succinic acid in 140 mL of isopropanol. Keep the system under stirring for about 30 minutes to assure total precipitation of the succinate salt of piperazine formed. Filter this salt and concentrate the filtrate containing the mono and dialkyled derivatives. We obtain a slightly yellowish oil, which is used in later phases without purification.

reactant | piperazine | 0.515 mol, 100 g, 3 Eq | N1CCNCC1 | C4H10N2
reactant | triethylamine | 0.189 mol, 26.3 mL, 1.1 Eq | C(C)N(CC)CC | C6H15N
reactant | chloroacetate | 0.172 mol, 18.4 mL, 1 Eq. | ClCC(=O)[O-]
reactant | succinic acid | 0.344 mol, 40.6 g | C(CCC(=O)O)(=O)O | C4H6O4
solvent | isopropanol | 200 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 140 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 140 mL | C(C)(C)O | C3H8O
product | Piperazine Ethyl Acetate | C(C)OC(C)=O.N1CCNCC1 | InChI=1S/C4H10N2.C4H8O2/c1-2-6-4-3-5-1;1-3-6-4(2)5/h5-6H,1-4H2;3H2,1-2H3
